US06762205B1
The procedure of Preparation Example 2 was repeated, except that 55 mg of N-(4′-methoxybiphenyl-4-yl)methanesulfonamide was used in place of 4′-methoxy-2-biphenylacetonitrile, and 1,2-dichloroethane was used in place of methylene chloride. The resulting crude product was purified by TLC (using a 6:1 mixture of chloroform and acetone as the developing solvent) to obtain 24 mg of N-(4′-hydroxybiphenyl-4-yl)-methanesulfonamide.

reactant | N-(4′-methoxybiphenyl-4-yl)methanesulfonamide | 55 mg | COC1=CC=C(C=C1)C1=CC=C(C=C1)NS(=O)(=O)C | C14H15NO3S
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | N-(4′-hydroxybiphenyl-4-yl)-methanesulfonamide | 24 mg | OC1=CC=C(C=C1)C1=CC=C(C=C1)NS(=O)(=O)C | C13H13NO3S
